US05438150
A mixture of (S)-N-[3-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-2-thioxo-2,3-dihydro-1H-imidazol-4-ylmethyl]formamide (19.1 g, 59.0 mmol), prepared as in Example 8, and 25 mL of concentrated hydrochloric acid (12.0M, 25 mL, 300 mmol) in 400 mL of isopropanol was heated to reflux over 12 minutes and stirred for 1 hour 40 minutes. The mixture was distilled removing 150 mL of isopropanol. The mixture was gradually cooled to room temperature and stirred for 3 hours 45 minutes. The material was isolated by filtration and the filter residue was washed with 75 mL of isopropanol. Drying in vacuo at 110° to 125° C. with a nitrogen bleed gave (S)-5-aminomethyl-1-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione hydrochloride (15.6 g, 47.1 mmol), m.p. 251.9° C. [α]D +10.2° (c=0.500, DMSO).

reactant | (S)-N-[3-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-2-thioxo-2,3-dihydro-1H-imidazol-4-ylmethyl]formamide | 59.0 mmol, 19.1 g | FC1=C2CC[C@@H](CC2=CC(=C1)F)N1C(NC=C1CNC=O)=S | C15H15F2N3OS
reactant | hydrochloric acid | 300 mmol, 12.0M, 25 mL | Cl | ClH
reactant | DMSO | CS(=O)C | C2H6OS
solvent | isopropanol | 400 mL | C(C)(C)O | C3H8O
product | (S)-5-aminomethyl-1-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione hydrochloride | 47.1 mmol, 15.6 g | Cl.NCC1=CNC(N1[C@@H]1CC2=CC(=CC(=C2CC1)F)F)=S | InChI=1S/C14H15F2N3S.ClH/c15-9-3-8-4-10(1-2-12(8)13(16)5-9)19-11(6-17)7-18-14(19)20;/h3,5,7,10H,1-2,4,6,17H2,(H,18,20);1H/t10-;/m0./s1
